US08536179B2
To a stirred solution of ethyl 4-ethoxy-2-oxopent-3-enoate (22.5 g, 121 mmol) and 2-cyanoacetamide (9.0 g, 107 mmol) in acetone (250 mL) was added potassium carbonate (15.8 g, 114 mmol). The reaction was refluxed (85° C. oil bath) for 10 hr (the reaction formed a thick ppt. in a deep red solution). The slurry was added to cold 1 N HCl (230 mL) in ice. After stirring for 30 min. the suspension was filtered, washed with water and dried under vacuum to give the product ethyl 5-cyano-4-methyl-6-oxo-1,6-dihydropyridine-2-carboxylate (14.51 g, 70.4 mmol, 65.7% yield) as a light pink solid.

reactant | ethyl 4-ethoxy-2-oxopent-3-enoate | 121 mmol, 22.5 g | C(C)OC(=CC(C(=O)OCC)=O)C | C9H14O4
reactant | 2-cyanoacetamide | 107 mmol, 9.0 g | C(#N)CC(=O)N | C3H4N2O
reactant | potassium carbonate | 114 mmol, 15.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N, 230 mL | Cl | ClH
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | ethyl 5-cyano-4-methyl-6-oxo-1,6-dihydropyridine-2-carboxylate | 70.4 mmol, 14.51 g, 65.7% yield | C(#N)C1=C(C=C(NC1=O)C(=O)OCC)C | C10H10N2O3
